US05703089
1.51 g (6 mmol) of anthracene-1,9-dicarboxylic acid anhydride was treated with 10 ml of ammonium hydroxide (28%). After refluxing for 16 hours the solid was collected, washed with water, dried in vacuo, and crystallized from dimethylformamide-water to give 1.3 g (86%) of 1,2-dihydro-3H-dibenz[de,h]isoquinoline-1,3-dione. M.p. 310° C.

reactant | anthracene-1,9-dicarboxylic acid anhydride | 6 mmol, 1.51 g | C12=CC=CC3=CC4=CC=CC=C4C(=C13)C(=O)OC2=O | C16H8O3
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | 1,2-dihydro-3H-dibenz[de,h]isoquinoline-1,3-dione | 1.3 g, 86% | C1(NC(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)=O | C16H9NO2
